2124-02-01 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-1-31**] 09:58 PM
   - pt agitated throughout the night - ? encephalopathy vs withdrawl from
   ETOH benzos?
   - admin
d 2mg of Ativan for sedation, ? withdrawl
   - admin
d two rounds of 1mg Ativan and 2mg Haldol with little effect
   - passed NGT, secured into place, CXR pending
   - Pox and BP difficult to assess, but when checked pt saturating in the
   high 90s and BPs in the 130-150s systolic with doppler
   Allergies:
   Codeine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-1-31**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-1**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 83 (73 - 89) bpm
   BP: 169/149(139) {66/21(62) - 204/171(179)} mmHg
   RR: 22 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,500 mL
                                                                  1,000 mL
   PO:
             TF:
   IVF:
                                                                    500 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    345 mL
                                                                     50 mL
   Urine:
                                                                     45 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,155 mL
                                                                    950 mL
   Respiratory support
   SpO2: 100%
   ABG: 7.33/43/213/20/-3
   Physical Examination
   General: agitated on two point restraints, not oriented, not following
   commands, MAE
   HEENT: PERRL, L slightly larger than R, OP with dried blood
   Neck: unable to appreciate any elevated JVP
   Heart: RRR 2/6 systolic murmur best heard at LUSB radiating to carotids
   Lungs: Coarse rhonchorous BS, diminished in anterior lung fields.
   Abd: +BS, slightly hypoactive, NT, distended, soft
   Ext: Trace edema B/L with chronic venous stasis changes, WWP
   Neuro: limited by his mental status, spontaneously moves all 4
   extremities.
   Skin: Multiple echymosis
   Labs / Radiology
   81 K/uL
   8.7 g/dL
   127 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.9 mEq/L
   20 mg/dL
   112 mEq/L
   147 mEq/L
   24.8 %
   3.7 K/uL
        [image002.jpg]
                            [**2124-2-1**]  02:30 AM
                            [**2124-2-1**]  02:35 AM
   WBC
   3.7
   Hct
   24.8
   Plt
   81
   Cr
   1.3
   TCO2
   24
   Glucose
   127
   Other labs: PT / PTT / INR:23.9/56.3/2.3, ALT / AST:19/59, Alk Phos / T
   Bili:55/4.9, Differential-Neuts:78.8 %, Lymph:10.7 %, Mono:7.8 %,
   Eos:2.5 %, Lactic Acid:3.5 mmol/L, LDH:373 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Imaging
   CXR: RLL infiltrate, low lung volumes. No effusions
   CT head: Limited. No hemorrhage. Low density left cerebellum (artifact
   vs ischemia) increased size ventricles with periventricular
   hypodensity, small vessel ischemic sequelae
   Micro: Blood cx NGTD
   Assessment and Plan
   71 gentleman with alcoholic cirrhosis c/b portal HTN, refractory
   ascites s/p TIPS [**2119**] found to have occluded TIPS by U/S in [**12-18**] now
   s/p TIPS revision and prtal vein thrombolysis transferred with hypoxia
   and altered mental status.
   .
   # Hypoxemic respiratory failure: Hypoxia most likely secondary to
   aspiration given witnessed aspiration event, decreased O2 sats, new
   tachypnea, new infiltrate on CXR. Other less likely etiologies include
   PE, HPS. PE less likely since has been on anticoagulation, has INR>2,
   and HPS unlikely to have acute onset.
   - vanc/zosyn for HAP coverage with new infiltrate
   - intubate for sedation and further studies as likely to become more
   sick with developing infection and more altered without lactulose
   - ABG to trend lactate
   -consider CTA
   - prn nebs
   .
   # Mental status changes: Timing coincides with TIPS revision. Likely
   multifactorial secondary to post op delirium, encephalopathy from
   patent TIPS and lack of lactulose, underlying cognitive dysfunction,
   and infection. Head CT negative for bleed but his ventricles were
   enlarged with ? communicating hydrocephalus. Per discussion with
   neurology, hydrocephalus unlikely cause of ms changes and is likely
   chronic. Head CT did not show any acute signs of hemorrhage which was
   concern while on anticoagulation. Patient is too agitated for MRI and
   would need to be intubated and sedated to get this done. Also concern
   for sepsis with low UOP, borderline low BPs, elevated lactate. On vanc
   zosyn now for asp pna and empiric sbp treatment. UA negative. Bld cx
   ordered.  Also on the differential will be alcohol withdrawal but less
   likely given time course, has been in hospital since [**1-21**] and only
   received ativan after TIPS on [**1-28**].
   - lactulose and rifaximin, uptitrate to [**5-15**] bms today, (will need to
   intubate, place NGT first)
   - ativan prn agitation
   - vanc zosyn for above infection
   - diagnostic tap for SBP
   -  follow up blood cx, urine cx
   - could consider occluding TIPS if unable to reverse MS changes once
   NGT in place and lactulose given, infections being treated
   .
   # Hypotension: Hypotension likely multifactorial secondary to
   infection/sepsis, liver disease, concern for poor cardiac output, ?
   pericardial effusion (Low voltage on ECG). UOP also low
   -          Pressors (currently on Levophed) titrate to MAP 65
   -          Broad ABx (Vanc/Zosyn)
   -          check IAP
   -          TTE
   -          Follow UOP
   # TIPS revision: This was done [**1-28**]. Thrombolysis, angioplasty done
   with gradient of 6 after procedure was finished. Per IR, no need for
   heparin. Briefly on lovenox but discontinued since pt at risk for
   bleeding. RUQ us demonstartes flow but could not assess gradient since
   agitated. will need sedation if want to assess gradient
   - F/U further IR recs
   - consider reversing tips due to gross encephalopathy
   .
   # Portal vein thrombosis: s/p thrombolysis and angioplasty.
   - no anti-coag for now, has INR>2.0
   # Pacemaker malfunction/ECG changes: Pacemaker not functioning properly
   per EP secondary to microdislodgement of RV lead per EP.  Has a history
   of high grade AVB.  Needs lead revision before discharge. If intubated,
   EP may be able to do sooner rather than waiting for MS to clear. Also
   has TWI in anterior leads, ruled out yesterday but will repeat given
   ECG changes
   - appreciate EP recs
   - no nodal agents
   - telemetry
   - daily EGS
   - Echo to eval WMA, low voltage on ECG
   - Check cardiac enzymes
   .
   # Anemia: Transfused 1 unit on this admission, HCT stable since and
   bumped appropriately to I unti yesterday. Stools ob pos yellow stools.
   - consider repeat egd at some point as hasnt had one since [**2119**],
   unclear [**Name2 (NI) 4544**] of varices
   - check PM hct
   .
   # Acute Renal Failure: Baseline Cr~1. Cr today slightly up 1.3, from
   1.2, likely seconmdary to episodes of hypotension, prerenal with
   decreased BP. HRS also consideration
   - holding lasix and spironolactone
   - NS boluses prn low UOP
   - maintain MAP 65 to maintaijn perfusion pressure
   - check urine lytes
   .
   # Gout: On Colchicine
   .
   # LE edema: Pt had LLE edema greater than R concerning for DVT. LLE US
   negative for DVT but limited study due to agitation.
   - continue to monitor
   .
   # Alcoholic cirrhosis: Inactive on transplant list. Pt does not want
   liver transplant.
   - Hold lasix and spironolactone given ARF
   - Continue lactulose and rifaximin  once NGT placed
   - will consider egd to assess for varices since he has not had one
   since [**2119**]
   - appreciate hepatology recs
   .
   # Thrombocytopenia: Plt count stabilized, c/w prior baseline 80s-100s
   - continue to monitor
   .
   # DM2: Maintain glycemic control with HISS.
   .
   # FEN/GI
 Will need NGT placement first, replete lytes prn, will
   repeat in pm
   .
   # PPx - sub q heparin, PPI
   .
   # Access - PIV , RIJ CVL and Left radial a line placed
   .
   # Code - full (confimred with pt). Pt's daughter [**Name (NI) 4522**] [**Numeric Identifier 4523**].
   Cell [**Telephone/Fax (1) 4524**]
   .
   # Dispo - pending improvement in mental status
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-1-31**] 09:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-02-02 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -intubated, Aline and CVL placed
   -paracentesis- no evidence of SBP
   -bladder pressure 20
   -? liver will place NG via scope
   -Dilated RV on echo with global free wall hypokinesis, concern for PEs.
   LENIs pending
   -decreased UOP o/n- increased pressors, NS bolus
   Allergies:
   Codeine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-2-1**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-2-2**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.19 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2124-2-1**] 09:30 AM
   Pantoprazole (Protonix) - [**2124-2-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-2-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-2**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 63 (61 - 97) bpm
   BP: 98/52(68) {76/48(22) - 117/68(86)} mmHg
   RR: 18 (9 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 16 (16 - 16)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  4,848 mL
                                                                  1,012 mL
   PO:
   TF:
   IVF:
                                                                  4,748 mL
                                                                  1,012 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    761 mL
                                                                    240 mL
   Urine:
                                                                    661 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                  4,087 mL
                                                                    772 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/45/108/22/-4
   Ve: 6.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Intubated, sedated, opens eyes to sternal rub, not responsive
   to voice or following commands, MAE
   HEENT: PERRL, pinpoint, OP with dried blood, no e/o recent bleed
   Neck: unable to appreciate any elevated JVP
   Heart: RRR 2/6 systolic murmur best heard at LUSB radiating to carotids
   Lungs: Coarse BS, diminished in anterior lung fields.
   Abd: +BS, slightly hypoactive, NT, mildy distended, soft
   Ext: Trace edema B/L with chronic venous stasis changes (L>R), WWP, UE
   edema BL L>R
   Neuro: limited by his mental status, spontaneously moves all 4
   extremities,responsive to sternal rub .
   Skin: Multiple echymosis
   Labs / Radiology
   110 K/uL
   9.3 g/dL
   175 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.3 mEq/L
   20 mg/dL
   113 mEq/L
   145 mEq/L
   26.7 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-2-1**]  02:30 AM
                            [**2124-2-1**]  02:35 AM
                            [**2124-2-1**]  01:04 PM
                            [**2124-2-1**]  03:02 PM
                            [**2124-2-1**]  03:06 PM
                            [**2124-2-1**]  03:52 PM
                            [**2124-2-1**]  05:20 PM
                            [**2124-2-1**]  08:39 PM
                            [**2124-2-2**]  04:07 AM
                            [**2124-2-2**]  04:46 AM
   WBC
   3.7
   7.1
   4.6
   Hct
   24.8
   29
   26.4
   27.6
   26.7
   Plt
   81
   131
   110
   Cr
   1.3
   1.4
   1.4
   1.4
   TropT
   0.06
   TCO2
   24
   20
   20
   20
   21
   23
   Glucose
   127
   156
   156
   175
   Other labs: PT / PTT / INR:23.7/59.7/2.3, CK / CKMB /
   Troponin-T:468/12/0.06, ALT / AST:16/45, Alk Phos / T Bili:39/4.0,
   Differential-Neuts:78.8 %, Lymph:10.7 %, Mono:7.8 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.9 g/dL, LDH:304 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.6 mg/dL
   Imaging
   TTE: The left atrium is moderately dilated. The right atrium is
   moderately dilated. No atrial septal defect or patent foramen ovale is
   seen by 2D, color Doppler or saline contrast with maneuvers. There is
   mild symmetric left ventricular hypertrophy. The left ventricular
   cavity size is normal. Overall left ventricular systolic function is
   low normal (LVEF 50-55%). The right ventricular cavity is dilated with
   moderate global free wall hypokinesis. There is abnormal septal
   motion/position consistent with right ventricular pressure/volume
   overload. The ascending aorta is mildly dilated. The aortic valve
   leaflets are moderately thickened. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. Mild to moderate ([**2-10**]+)
   mitral regurgitation is seen. The tricuspid valve leaflets are
   moderately thickened. Moderate [2+] tricuspid regurgitation is seen.
   The pulmonary artery pressure was not adequately determined. There is
   no pericardial effusion.
   CXR: ETT 4cm above carina, slight increased haziness on left, RIJ
   terminates in distal SVC
   Assessment and Plan
   71 gentleman with alcoholic cirrhosis c/b portal HTN, refractory
   ascites s/p TIPS [**2119**] found to have occluded TIPS by U/S in [**12-18**] now
   s/p TIPS revision [**2124-1-28**] and portal vein thrombolysis transferred
   with hypoxia and altered mental status.
   .
   # Hypoxemic respiratory failure: Hypoxia most likely secondary to
   aspiration given witnessed aspiration event, decreased O2 sats, new
   tachypnea, infiltrates on CXR. [**Month (only) 51**] also have HAP although no fevers or
   elevated WBC. Also concerning for PE given RV dilation and hypokinesis.
   Pt had been anticoagulated until 3 days prior and INR >2.0, so PE less
   likely but has other clots (PV) and ? malignancy with nodules in liver
   so certainly could be hypercoagulable and embolize. Other less likely
   etiologies include HPS.
   - vanc/zosyn for HAP coverage
   - intubated now for obtaining studies, pressor and vent requirements
   - serial ABGS to trend lactate, has trended down
   - CTA today to eval for PE
   - No major changes with vent settings today but could decrease PEEP as
   tolerated which may help blood pressure
   .
   # Mental status changes: Timing coincides with TIPS revision. Likely
   multifactorial secondary to post op delirium, encephalopathy from
   patent TIPS and lack of lactulose, underlying cognitive dysfunction,
   and possible infection. Head CT negative for bleed but his ventricles
   were enlarged with ? communicating hydrocephalus. Per discussion with
   neurology, hydrocephalus unlikely cause of ms changes and is likely
   chronic. Head CT did not show any acute signs of hemorrhage which was
   concern while on anticoagulation. Also concern for sepsis with low UOP,
   borderline low BPs, elevated lactate but these seem to be resolving. On
   vanc, zosyn now for asp pna and empiric sbp treatment. Para negative
   fro SBP. UA negative. Bld cx NGTD.  Also on the differential will be
   alcohol withdrawal but less likely given time course, has been in
   hospital since [**1-21**] and only received ativan after TIPS on [**1-28**].
   - lactulose and rifaximin once NGT (or OGT) placed
   - on fentanyl and versed for sedation, will titrate to avoid agitation
   and oversedation
   - vanc zosyn for above infection
   -  follow up blood cx, urine cx, ascetic cx, obtain sputum cx
   - could consider occluding TIPS if unable to reverse MS changes once
   NGT in place and lactulose given, infections being treated
   - GI to place NGT and scope
   .
   # Hypotension: Hypotension likely multifactorial secondary to
   infection/sepsis, liver disease, concern for poor cardiac output, ?
   pericardial effusion (Low voltage on ECG). UOP also low. Hypotension
   could also be related to PEEP or massive/submassive PE with RV dilation
   and hypokinesis. If PE on CTA will have to discuss anticoagulation
   management with heme.
   -          Continue pressors (currently on Levophed) titrate to MAP 65
   -          CTA to eval for PE with contrast load hydration with IVF
   with bicarb and NAC to decrease risk contrast nephropathy
   -          Broad ABx (Vanc/Zosyn)
   -          TTE
   -          Follow UOP
   -          Decrease PEEP as O2 sats tolerate
   # TIPS revision: Had revision [**1-28**]. Thrombolysis, angioplasty done
   with gradient of 6 after procedure was finished. Per IR, no need for
   heparin. Briefly on lovenox but discontinued since pt at risk for
   bleeding. RUQ us demonstrates flow but could not assess gradient since
   agitated.
   - F/U further IR recs
   - consider reversing tips due to gross encephalopathy
   .
   # Portal vein thrombosis: s/p thrombolysis and angioplasty.
   - no anti-coag for now, has INR>2.0
   # Pacemaker malfunction/ECG changes: Pacemaker not functioning properly
   per EP secondary to microdislodgement of RV lead per EP.  Has a history
   of high grade AVB.  Needs lead revision before discharge. If intubated,
   EP may be able to do sooner rather than waiting for MS to clear. Also
   has TWI in anterior leads, ruled out day prior to transfer
   - appreciate EP recs
   - no nodal agents
   - telemetry
   - daily EGS
   .
   # Anemia: Transfused 1 unit on this admission, HCT relatively stable
   since around baseline and bumped appropriately to I unit. No EGD since
   [**2119**]. Theoretically, if TIPS patent would not need prophylaxis for
   varices but TIPS gradient unknown. If HCT decreases, will consider
   checking [**Hospital1 7**] HCTS
   - Repeat egd by GI today with placement of NGT, unclear [**Name2 (NI) 4544**] of
   varices
   .
   # Acute Renal Failure: Baseline Cr~1. Cr has slowly trended up last
   24-36 hours, 1.4 today likely from hypotension and decreased renal
   perfusion. Urine lytes consistent with prerenal state. HRS also
   consideration but would expect urine Na<10
   - holding lasix and spironolactone
   - NS boluses prn low UOP
   - maintain MAP 65 to maintaijn perfusion pressure
   - check urine lytes
   - [**Hospital1 7**] albumin
   .
   # Gout: On Colchicine
   .
   # LE edema: Pt had LLE edema greater than R concerning for DVT. LLE US
   negative for DVT but limited study due to agitation.
   - continue to monitor
   - repeat LENIS including UEs since has UE edema
   .
   # Alcoholic cirrhosis: Inactive on transplant list. Pt does not want
   liver transplant.
   - Hold lasix and spironolactone given ARF
   - Continue lactulose and rifaximin  once NGT placed
   - egd to assess for varices since he has not had one since [**2119**]
   - appreciate hepatology recs
   .
   # Thrombocytopenia: Plt count stabilized, c/w prior baseline 80s-100s
   - continue to monitor
   .
   # DM2: Maintain glycemic control with HISS.
   .
   # FEN/GI
 needs NGT placement , replete lytes prn
   .
   # PPx - sub q heparin, PPI
   .
   # Access - PIV , RIJ CVL and Left radial a line placed
   .
   # Code - full (confirmed with pt). Pt's daughter [**Name (NI) 4522**] [**Numeric Identifier 4523**].
   Cell [**Telephone/Fax (1) 4524**]
   .
   # Dispo - pending improvement in mental status
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-1-31**] 09:56 PM
   18 Gauge - [**2124-2-1**] 11:00 AM
   Multi Lumen - [**2124-2-1**] 12:49 PM
   Arterial Line - [**2124-2-1**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2124-02-03 04:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   DNR per family
   No further invasive procedures
   Did not have NGT placed secondary to family request
   Decreased PEEP to 5
   CTA neg for PE
   LENIS neg UE/LE B/L
   SBP 70s with 15cc/hr Levophed around 2 am. Bolused 500cc, with UOP 40
   cc/hr SBP 80-90s
   Allergies:
   Codeine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-2-2**] 09:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-2-3**] 12:41 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2124-2-2**] 01:33 PM
   Midazolam (Versed) - [**2124-2-2**] 05:10 PM
   Heparin Sodium (Prophylaxis) - [**2124-2-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-3**] 04:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96.1
   HR: 60 (57 - 74) bpm
   BP: 96/48(66) {85/48(62) - 112/91(279)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 17 (14 - 21)mmHg
   Total In:
                                                                  4,579 mL
                                                                  1,483 mL
   PO:
   TF:
   IVF:
                                                                  4,479 mL
                                                                  1,383 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                    975 mL
                                                                    165 mL
   Urine:
                                                                    850 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
                                                                    125 mL
   Balance:
                                                                  3,604 mL
                                                                  1,318 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/40/95.[**Numeric Identifier 143**]/23/-2
   Ve: 9.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General: Intubated, sedated, opens eyes to sternal rub, not responsive
   to voice or following commands, MAE
   HEENT: PERRL, pinpoint, OP with dried blood, no e/o recent bleed
   Neck: unable to appreciate any elevated JVP
   Heart: RRR 2/6 systolic murmur best heard at LUSB radiating to carotids
   Lungs: Coarse BS, diminished in anterior lung fields.
   Abd: +BS, slightly hypoactive, NT, mildy distended, soft
   Ext: Trace edema B/L with chronic venous stasis changes (L>R), WWP, UE
   edema BL L>R
   Neuro: limited by his mental status, spontaneously moves all 4
   extremities,responsive to sternal rub .
   Skin: Multiple echymosis
   Labs / Radiology
   96 K/uL
   9.5 g/dL
   128 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   16 mg/dL
   112 mEq/L
   143 mEq/L
   27.1 %
   5.2 K/uL
        [image002.jpg]
                            [**2124-2-1**]  03:02 PM
                            [**2124-2-1**]  03:06 PM
                            [**2124-2-1**]  03:52 PM
                            [**2124-2-1**]  05:20 PM
                            [**2124-2-1**]  08:39 PM
                            [**2124-2-2**]  04:07 AM
                            [**2124-2-2**]  04:46 AM
                            [**2124-2-2**]  06:43 AM
                            [**2124-2-3**]  01:58 AM
                            [**2124-2-3**]  02:15 AM
   WBC
   7.1
   4.6
   5.2
   Hct
   26.4
   27.6
   26.7
   27.1
   Plt
   131
   110
   96
   Cr
   1.4
   1.4
   1.4
   1.0
   TCO2
   20
   20
   21
   23
   23
   24
   Glucose
   156
   156
   175
   128
   Other labs: PT / PTT / INR:23.5/58.0/2.3, CK / CKMB /
   Troponin-T:468/12/0.06, ALT / AST:13/34, Alk Phos / T Bili:32/4.4,
   Differential-Neuts:78.8 %, Lymph:10.7 %, Mono:7.8 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:250 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   71 gentleman with alcoholic cirrhosis c/b portal HTN, refractory
   ascites s/p TIPS [**2119**] found to have occluded TIPS by U/S in [**12-18**] now
   s/p TIPS revision [**2124-1-28**] and portal vein thrombolysis transferred
   with hypoxia and altered mental status.
   .
   # Hypoxemic respiratory failure: Hypoxia most likely secondary to
   aspiration given witnessed aspiration event, decreased O2 sats, new
   tachypnea, infiltrates on CXR. [**Month (only) 51**] also have HAP although no fevers or
   elevated WBC. Also concerning for PE given RV dilation and hypokinesis.
   Pt had been anticoagulated until 3 days prior and INR >2.0, so PE less
   likely but has other clots (PV) and ? malignancy with nodules in liver
   so certainly could be hypercoagulable and embolize. Other less likely
   etiologies include HPS.
   - vanc/zosyn for HAP coverage
   - intubated now for obtaining studies, pressor and vent requirements
   - serial ABGS to trend lactate, has trended down
   - CTA today to eval for PE
   - No major changes with vent settings today but could decrease PEEP as
   tolerated which may help blood pressure
   .
   # Mental status changes: Timing coincides with TIPS revision. Likely
   multifactorial secondary to post op delirium, encephalopathy from
   patent TIPS and lack of lactulose, underlying cognitive dysfunction,
   and possible infection. Head CT negative for bleed but his ventricles
   were enlarged with ? communicating hydrocephalus. Per discussion with
   neurology, hydrocephalus unlikely cause of ms changes and is likely
   chronic. Head CT did not show any acute signs of hemorrhage which was
   concern while on anticoagulation. Also concern for sepsis with low UOP,
   borderline low BPs, elevated lactate but these seem to be resolving. On
   vanc, zosyn now for asp pna and empiric sbp treatment. Para negative
   fro SBP. UA negative. Bld cx NGTD.  Also on the differential will be
   alcohol withdrawal but less likely given time course, has been in
   hospital since [**1-21**] and only received ativan after TIPS on [**1-28**].
   - lactulose and rifaximin once NGT (or OGT) placed
   - on fentanyl and versed for sedation, will titrate to avoid agitation
   and oversedation
   - vanc zosyn for above infection
   -  follow up blood cx, urine cx, ascetic cx, obtain sputum cx
   - could consider occluding TIPS if unable to reverse MS changes once
   NGT in place and lactulose given, infections being treated
   - GI to place NGT and scope
   .
   # Hypotension: Hypotension likely multifactorial secondary to
   infection/sepsis, liver disease, concern for poor cardiac output, ?
   pericardial effusion (Low voltage on ECG). UOP also low. Hypotension
   could also be related to PEEP or massive/submassive PE with RV dilation
   and hypokinesis. If PE on CTA will have to discuss anticoagulation
   management with heme.
   -          Continue pressors (currently on Levophed) titrate to MAP 65
   -          CTA to eval for PE with contrast load hydration with IVF
   with bicarb and NAC to decrease risk contrast nephropathy
   -          Broad ABx (Vanc/Zosyn)
   -          TTE
   -          Follow UOP
   -          Decrease PEEP as O2 sats tolerate
   # TIPS revision: Had revision [**1-28**]. Thrombolysis, angioplasty done
   with gradient of 6 after procedure was finished. Per IR, no need for
   heparin. Briefly on lovenox but discontinued since pt at risk for
   bleeding. RUQ us demonstrates flow but could not assess gradient since
   agitated.
   - F/U further IR recs
   - consider reversing tips due to gross encephalopathy
   .
   # Portal vein thrombosis: s/p thrombolysis and angioplasty.
   - no anti-coag for now, has INR>2.0
   # Pacemaker malfunction/ECG changes: Pacemaker not functioning properly
   per EP secondary to microdislodgement of RV lead per EP.  Has a history
   of high grade AVB.  Needs lead revision before discharge. If intubated,
   EP may be able to do sooner rather than waiting for MS to clear. Also
   has TWI in anterior leads, ruled out day prior to transfer
   - appreciate EP recs
   - no nodal agents
   - telemetry
   - daily EGS
   .
   # Anemia: Transfused 1 unit on this admission, HCT relatively stable
   since around baseline and bumped appropriately to I unit. No EGD since
   [**2119**]. Theoretically, if TIPS patent would not need prophylaxis for
   varices but TIPS gradient unknown. If HCT decreases, will consider
   checking [**Hospital1 7**] HCTS
   - Repeat egd by GI today with placement of NGT, unclear [**Name2 (NI) 4544**] of
   varices
   .
   # Acute Renal Failure: Baseline Cr~1. Cr has slowly trended up last
   24-36 hours, 1.4 today likely from hypotension and decreased renal
   perfusion. Urine lytes consistent with prerenal state. HRS also
   consideration but would expect urine Na<10
   - holding lasix and spironolactone
   - NS boluses prn low UOP
   - maintain MAP 65 to maintaijn perfusion pressure
   - check urine lytes
   - [**Hospital1 7**] albumin
   .
   # Gout: On Colchicine
   .
   # LE edema: Pt had LLE edema greater than R concerning for DVT. LLE US
   negative for DVT but limited study due to agitation.
   - continue to monitor
   - repeat LENIS including UEs since has UE edema
   .
   # Alcoholic cirrhosis: Inactive on transplant list. Pt does not want
   liver transplant.
   - Hold lasix and spironolactone given ARF
   - Continue lactulose and rifaximin  once NGT placed
   - egd to assess for varices since he has not had one since [**2119**]
   - appreciate hepatology recs
   .
   # Thrombocytopenia: Plt count stabilized, c/w prior baseline 80s-100s
   - continue to monitor
   .
   # DM2: Maintain glycemic control with HISS.
   .
   # FEN/GI
 needs NGT placement , replete lytes prn
   .
   # PPx - sub q heparin, PPI
   .
   # Access - PIV , RIJ CVL and Left radial a line placed
   .
   # Code - full (confirmed with pt). Pt's daughter [**Name (NI) 4522**] [**Numeric Identifier 4523**].
   Cell [**Telephone/Fax (1) 4524**]
   .
   # Dispo - pending improvement in mental status
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-2-1**] 11:00 AM
   Multi Lumen - [**2124-2-1**] 12:49 PM
   Arterial Line - [**2124-2-1**] 12:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2124-02-04 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2124-2-4**] 12:00 AM
   Made DNR yesterday. No more invasive procedures. Family considering
   CMO.
   Allergies:
   Codeine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-2-2**] 09:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-2-3**] 12:41 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-2-3**] 08:04 PM
   Midazolam (Versed) - [**2124-2-4**] 12:06 AM
   Fentanyl - [**2124-2-4**] 12:07 AM
   Heparin Sodium (Prophylaxis) - [**2124-2-4**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-4**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.8
C (96.5
   HR: 70 (65 - 78) bpm
   BP: 113/65(77) {62/42(47) - 125/74(83)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 12 (8 - 17)mmHg
   Total In:
                                                                  4,163 mL
                                                                    420 mL
   PO:
   TF:
   IVF:
                                                                  3,963 mL
                                                                    420 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                    765 mL
                                                                    170 mL
   Urine:
                                                                    765 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,398 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 19 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: ///23/
   Ve: 8.9 L/min
   Physical Examination
   General: Intubated, sedated, opens eyes to sternal rub, not responsive
   to voice or following commands
   HEENT: PERRL, pinpoint, anicteric
   Heart: RRR 2/6 systolic murmur best heard at LUSB radiating to carotids
   Lungs: Coarse BS, diminished in anterior lung fields.
   Abd: +BS  hypoactive, NT, mildy distended, soft
   Ext: Trace edema B/L with chronic venous stasis changes (L>R), WWP, UE
   edema BL L>R
   Skin: Multiple echymosis. Diffuse maculopapular rash over abdomen
   (stable from yesterday)
   Labs / Radiology
   110 K/uL
   10.1 g/dL
   140 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   114 mEq/L
   144 mEq/L
   29.0 %
   7.8 K/uL
        [image002.jpg]
                            [**2124-2-1**]  03:52 PM
                            [**2124-2-1**]  05:20 PM
                            [**2124-2-1**]  08:39 PM
                            [**2124-2-2**]  04:07 AM
                            [**2124-2-2**]  04:46 AM
                            [**2124-2-2**]  06:43 AM
                            [**2124-2-3**]  01:58 AM
                            [**2124-2-3**]  02:15 AM
                            [**2124-2-3**]  05:57 PM
                            [**2124-2-4**]  03:24 AM
   WBC
   7.1
   4.6
   5.2
   7.8
   Hct
   27.6
   26.7
   27.1
   29.0
   Plt
   131
   110
   96
   110
   Cr
   1.4
   1.4
   1.0
   1.0
   1.1
   TCO2
   20
   21
   23
   23
   24
   Glucose
   156
   175
   128
   138
   140
   Other labs: PT / PTT / INR:23.5/58.0/2.3, CK / CKMB /
   Troponin-T:468/12/0.06, ALT / AST:13/34, Alk Phos / T Bili:32/4.4,
   Differential-Neuts:78.8 %, Lymph:10.7 %, Mono:7.8 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:250 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   71 gentleman with alcoholic cirrhosis c/b portal HTN, refractory
   ascites s/p TIPS [**2119**] found to have occluded TIPS by U/S in [**12-18**] now
   s/p TIPS revision [**2124-1-28**] and portal vein thrombolysis transferred
   with hypoxia and altered mental status now intubated with persistent
   hypotension and pressor requirement.
   .
   # Hypoxemic respiratory failure: Hypoxia most likely secondary to
   aspiration given witnessed aspiration event, decreased O2 sats, new
   tachypnea, infiltrates on CXR. HAP less likely since no fever or
   elevated WBC. CTA negative for PE. Other less likely etiologies include
   HPS.  Finally, his respiratory support is in question at this point
   pending family meeting to discuss what their goals of care are, and
   whether extubation is within their wishes.
   - will d/c vanc/zosyn for HAP coverage since no clear indication and
   may be causing drug reaction
   - would continue to try and switch to PS and wean as tolerated, not to
   plan on extubating but to assess pulmonary status
   - ABGS as needed
   .
   # Mental status changes: Timing coincides with TIPS revision. Likely
   multifactorial secondary to post op delirium, encephalopathy from
   patent TIPS and lack of lactulose, underlying cognitive dysfunction,
   and possible infection. Head CT negative for bleed but his ventricles
   were enlarged with ? communicating hydrocephalus. Per discussion with
   neurology, hydrocephalus unlikely cause of ms changes and is likely
   chronic. Head CT did not show any acute signs of hemorrhage which was
   concern while on anticoagulation. Also concern for sepsis with low UOP,
   borderline low BPs. On vanc, zosyn now for asp pna and empiric sbp
   treatment but will stop since no cx data, no fevers and may be causing
   adverse reaction with rash. Para negative for SBP. UA negative. Bld cx
   NGTD.  At this point the only issue not addressed is lactulose for
   encephalopathy, which is impossible without NGT placement. Family
   meeting will take place today to discuss goals of care and whether NGT
   is within their wishes.
   - unable to treat encephalopathy without NGT
   - on fentanyl and versed for sedation, will titrate to avoid agitation
   and oversedation
   -  follow up pending cultures
   - discuss w/family if EGD to place NGT is ok
   .
   # Hypotension: Hypotension likely multifactorial secondary to liver
   disease, ventilator and PEEP, RV impairment, infection/sepsis.  He
   continues to require pressors and has minimal UOP (20-30cc/hr). Will
   add on a second pressor today and continue to monitor.  There is
   question whether A line is [**Location (un) **] accurately.
   -          Continue levophed, add vasopressin
   -          Bolus NS
   -          Follow UOP
   -          ? [**First Name8 (NamePattern2) 1619**] [**Location (un) **] may be positional, correlate with NBP
   .
   # TIPS revision: Had revision [**1-28**]. Thrombolysis, angioplasty done
   with gradient of 6 after procedure was finished. Per IR, no need for
   heparin. Briefly on lovenox but discontinued since pt at risk for
   bleeding. RUQ US demonstrates flow but could not assess gradient since
   agitated.
   - F/U further IR recs
   - will likely not undergo reversal given family
s wishes to avoid
   invasive procedures
   .
   # Portal vein thrombosis: s/p thrombolysis and angioplasty.
   - no anti-coag for now, has INR>2.0
   # Pacemaker malfunction/ECG changes: Pacemaker not functioning properly
   per EP secondary to microdislodgement of RV lead per EP.  Has a history
   of high grade AVB.  No revision at this time.
   - appreciate EP recs
   - no nodal agents
   - telemetry
   # Anemia: Transfused 1 unit on this admission, HCT relatively stable
   since around baseline and bumped appropriately to I unit. No EGD since
   [**2119**]. Theoretically, if TIPS patent would not need prophylaxis for
   varices but TIPS gradient unknown. If HCT decreases, will consider
   checking [**Hospital1 7**] HCTS
   -stable
   .
   # Acute Renal Failure: Baseline Cr~1. Cr stable to improved, 1 today.
   To maintain minimal UOP requires bolus NS and continued pressors. Will
   monitor at this time and add vasopressing.
   - holding lasix and spironolactone
   - NS boluses prn low UOP
   - maintain MAP 60s to maintaijn perfusion pressure
   - [**Hospital1 7**] albumin
   .
   # Gout: On Colchicine
   .
   # LE edema: Pt had LLE edema greater than R concerning for DVT. LLE US
   negative for DVT but limited study due to agitation.
   LENIS negative for DVT
   .
   # Alcoholic cirrhosis: Inactive on transplant list.
   - Hold lasix and spironolactone given ARF
   - appreciate hepatology recs
   .
   # Thrombocytopenia: Plt count stabilized, c/w prior baseline 80s-100s
   .
   # DM2: Maintain glycemic control with HISS.
   .
   # FEN/GI
 Unable to feed since cannot place NGT/OGT per family request
   , replete lytes prn
   .
   # PPx - sub q heparin, PPI
   .
   # Access - PIV , RIJ CVL and Left radial a line placed
   .
   # Code
 DNR/DNI (confirmed with pt). Pt's daughter [**Name (NI) 4522**] [**Numeric Identifier 4523**].
   Cell [**Telephone/Fax (1) 4524**]
   .
   # Dispo
 ICU; plan pending family discussion
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-2-1**] 11:00 AM
   Multi Lumen - [**2124-2-1**] 12:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2124-02-05 05:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2124-2-4**] 03:30 PM
   made CMO by family
   Allergies:
   Codeine
   Nausea/Vomiting
   Ambien (Oral) (Zolpidem Tartrate)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2124-2-2**] 09:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-2-3**] 12:41 AM
   Infusions:
   Fentanyl - 175 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-2-4**] 08:32 AM
   Midazolam (Versed) - [**2124-2-4**] 03:30 PM
   Fentanyl - [**2124-2-4**] 06:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-2-5**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 69 (67 - 78) bpm
   BP: 57/28(34) {51/23(30) - 112/43,100(85)} mmHg
   RR: 10 (0 - 21) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (10 - 21)mmHg
   Total In:
                                                                  1,947 mL
                                                                    164 mL
   PO:
   TF:
   IVF:
                                                                  1,947 mL
                                                                    164 mL
   Blood products:
   Total out:
                                                                    445 mL
                                                                     25 mL
   Urine:
                                                                    445 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,502 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   10.1 g/dL
   140 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   114 mEq/L
   144 mEq/L
   29.0 %
   7.8 K/uL
        [image002.jpg]
                            [**2124-2-1**]  03:52 PM
                            [**2124-2-1**]  05:20 PM
                            [**2124-2-1**]  08:39 PM
                            [**2124-2-2**]  04:07 AM
                            [**2124-2-2**]  04:46 AM
                            [**2124-2-2**]  06:43 AM
                            [**2124-2-3**]  01:58 AM
                            [**2124-2-3**]  02:15 AM
                            [**2124-2-3**]  05:57 PM
                            [**2124-2-4**]  03:24 AM
   WBC
   7.1
   4.6
   5.2
   7.8
   Hct
   27.6
   26.7
   27.1
   29.0
   Plt
   131
   110
   96
   110
   Cr
   1.4
   1.4
   1.0
   1.0
   1.1
   TCO2
   20
   21
   23
   23
   24
   Glucose
   156
   175
   128
   138
   140
   Other labs: PT / PTT / INR:23.5/58.0/2.3, CK / CKMB /
   Troponin-T:468/12/0.06, ALT / AST:13/34, Alk Phos / T Bili:32/4.4,
   Differential-Neuts:78.8 %, Lymph:10.7 %, Mono:7.8 %, Eos:2.5 %, Lactic
   Acid:1.8 mmol/L, Albumin:3.7 g/dL, LDH:250 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   71 gentleman with alcoholic cirrhosis c/b portal HTN, refractory
   ascites s/p TIPS [**2119**] found to have occluded TIPS by U/S in [**12-18**] now
   s/p TIPS revision [**2124-1-28**] and portal vein thrombolysis transferred
   with hypoxia and altered mental status now intubated with persistent
   hypotension and pressor requirement.
   .
   # Hypoxemic respiratory failure: Hypoxia most likely secondary to
   aspiration given witnessed aspiration event, decreased O2 sats, new
   tachypnea, infiltrates on CXR. HAP less likely since no fever or
   elevated WBC. CTA negative for PE. Other less likely etiologies include
   HPS.  Finally, his respiratory support is in question at this point
   pending family meeting to discuss what their goals of care are, and
   whether extubation is within their wishes.
   - will d/c vanc/zosyn for HAP coverage since no clear indication and
   may be causing drug reaction
   - would continue to try and switch to PS and wean as tolerated, not to
   plan on extubating but to assess pulmonary status
   - ABGS as needed
   .
   # Mental status changes: Timing coincides with TIPS revision. Likely
   multifactorial secondary to post op delirium, encephalopathy from
   patent TIPS and lack of lactulose, underlying cognitive dysfunction,
   and possible infection. Head CT negative for bleed but his ventricles
   were enlarged with ? communicating hydrocephalus. Per discussion with
   neurology, hydrocephalus unlikely cause of ms changes and is likely
   chronic. Head CT did not show any acute signs of hemorrhage which was
   concern while on anticoagulation. Also concern for sepsis with low UOP,
   borderline low BPs. On vanc, zosyn now for asp pna and empiric sbp
   treatment but will stop since no cx data, no fevers and may be causing
   adverse reaction with rash. Para negative for SBP. UA negative. Bld cx
   NGTD.  At this point the only issue not addressed is lactulose for
   encephalopathy, which is impossible without NGT placement. Family
   meeting will take place today to discuss goals of care and whether NGT
   is within their wishes.
   - unable to treat encephalopathy without NGT
   - on fentanyl and versed for sedation, will titrate to avoid agitation
   and oversedation
   -  follow up pending cultures
   - discuss w/family if EGD to place NGT is ok
   .
   # Hypotension: Hypotension likely multifactorial secondary to liver
   disease, ventilator and PEEP, RV impairment, infection/sepsis.  He
   continues to require pressors and has minimal UOP (20-30cc/hr). Will
   add on a second pressor today and continue to monitor.  There is
   question whether A line is [**Location (un) **] accurately.
   -          Continue levophed, add vasopressin
   -          Bolus NS
   -          Follow UOP
   -          ? [**First Name8 (NamePattern2) 1619**] [**Location (un) **] may be positional, correlate with NBP
   .
   # TIPS revision: Had revision [**1-28**]. Thrombolysis, angioplasty done
   with gradient of 6 after procedure was finished. Per IR, no need for
   heparin. Briefly on lovenox but discontinued since pt at risk for
   bleeding. RUQ US demonstrates flow but could not assess gradient since
   agitated.
   - F/U further IR recs
   - will likely not undergo reversal given family
s wishes to avoid
   invasive procedures
   .
   # Portal vein thrombosis: s/p thrombolysis and angioplasty.
   - no anti-coag for now, has INR>2.0
   # Pacemaker malfunction/ECG changes: Pacemaker not functioning properly
   per EP secondary to microdislodgement of RV lead per EP.  Has a history
   of high grade AVB.  No revision at this time.
   - appreciate EP recs
   - no nodal agents
   - telemetry
   # Anemia: Transfused 1 unit on this admission, HCT relatively stable
   since around baseline and bumped appropriately to I unit. No EGD since
   [**2119**]. Theoretically, if TIPS patent would not need prophylaxis for
   varices but TIPS gradient unknown. If HCT decreases, will consider
   checking [**Hospital1 7**] HCTS
   -stable
   .
   # Acute Renal Failure: Baseline Cr~1. Cr stable to improved, 1 today.
   To maintain minimal UOP requires bolus NS and continued pressors. Will
   monitor at this time and add vasopressing.
   - holding lasix and spironolactone
   - NS boluses prn low UOP
   - maintain MAP 60s to maintaijn perfusion pressure
   - [**Hospital1 7**] albumin
   .
   # Gout: On Colchicine
   .
   # LE edema: Pt had LLE edema greater than R concerning for DVT. LLE US
   negative for DVT but limited study due to agitation.
   LENIS negative for DVT
   .
   # Alcoholic cirrhosis: Inactive on transplant list.
   - Hold lasix and spironolactone given ARF
   - appreciate hepatology recs
   .
   # Thrombocytopenia: Plt count stabilized, c/w prior baseline 80s-100s
   .
   # DM2: Maintain glycemic control with HISS.
   .
   # FEN/GI
 Unable to feed since cannot place NGT/OGT per family request
   , replete lytes prn
   .
   # PPx - sub q heparin, PPI
   .
   # Access - PIV , RIJ CVL and Left radial a line placed
   .
   # Code
 DNR/DNI (confirmed with pt). Pt's daughter [**Name (NI) 4522**] [**Numeric Identifier 4523**].
   Cell [**Telephone/Fax (1) 4524**]
   .
   # Dispo
 ICU; plan pending family discussion
 COMFORT CARE (CMO, COMFORT MEASURES)
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALTERATION IN NUTRITION
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2124-2-1**] 12:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: